US05153201
2-(2,3-Dimethoxystyryl)-4-methanesulfonyl-4,5,6,7-tetrahydrothiazolo[5,4-b]pyridine
To a solution of 2-(2,3-dimethoxystyryl)-4,5,6,7-tetrahydrothiazolo[5,4-b]pyridine (1.0 g, 3.3 mmole) in pyridine (10 ml) was added dropwise methanesulfonyl chloride (0.45 g, 3.97 mmole) with ice-cooling. The reaction mixture was heated with stirring at room temperature for 3 hours and then a sodium bicarbonate solution was added to the mixture which was extracted with a chloroform-methanol mixed solvent. The extract was dried over magnesium sulfate and concentrated. The residue was purified by flash column chromatography and recrystallized from hexane-ethyl acetate to obtain the title compound (1.09 g, yield: 92.7%).

reactant | 2-(2,3-dimethoxystyryl)-4,5,6,7-tetrahydrothiazolo[5,4-b]pyridine | 3.3 mmole, 1.0 g | COC1=C(C=CC=2SC=3NCCCC3N2)C=CC=C1OC | C16H18N2O2S
reactant | methanesulfonyl chloride | 3.97 mmole, 0.45 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2-(2,3-Dimethoxystyryl)-4-methanesulfonyl-4,5,6,7-tetrahydrothiazolo[5,4-b]pyridine | 1.09 g, yield: 92.7% | COC1=C(C=CC=2SC=3N(CCCC3N2)S(=O)(=O)C)C=CC=C1OC | C17H20N2O4S2
